* sdm3_int1: first integrator for the alternating-phase 2nd-order SC SDM.
* Same sampled parasitic-insensitive input section as eeg_sd_int, but the DAC
* is DIRECT (no sampling phase): during PH1 the DAC caps discharge to VCM;
* during PH2 their left plates step VCM -> Vsel (VP if BIT=1 else VN on the
* P side), dumping CDAC*(Vsel-VCM) into the summing node in the SAME cycle
* the comparator produced BIT. This same-cycle feedback into int1 (plus the
* non-delaying int1->int2 cascade from alternating integration phases) makes
* the loop the true classic 2nd-order modulator, NTF = (1-z^-1)^2:
*   char poly (1-z^-1)^2 + a2*d1*z^-1 + d2*z^-1*(1-z^-1) = 1
*   for d2=1, a2*d1=1 (here a2=0.5, d1=2: CDAC=2*CI; a1=2 for STF(DC)=1).
* Polarity: BIT=1 (means O2D<0) raises OUTD (negative feedback; BIT=1 -> VP
* on the P side: OUTN falls by CDAC*(VP-VCM)/CI -> OUTP-OUTN rises).
* A same-phase cascade (eeg_sd_int for both stages) carries a full extra
* cycle of loop delay and tops out at ~59 dB SQNR behaviorally - that, plus
* eeg_sd_int2's inverted DAC polarity, is why the abandoned eeg_sdm2 railed.
.subckt sdm3_int1 INP_S INN_S VCM_REF BIT VP VN OUTP OUTN PH1 NPH1 PH2 NPH2 VDD18 VSS params: CS=8p CDAC=8p CI=4p VDDV=1.8
XOTA INP INN VCM_REF OUTP OUTN VDD18 VSS eeg_fd_ota_full2_nc
* ---- input sampling caps (identical phasing to eeg_sd_int) ----
CSP CSLP CSRP {CS}
CSN CSLN CSRN {CS}
XS1A CSLP INP_S PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1B CSRP VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1C CSLN INN_S PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS1D CSRN VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XS2A CSLP VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2B CSRP INP PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2C CSLN VCM_REF PH2 NPH2 VDD18 VSS eeg_tg_lowq
XS2D CSRN INN PH2 NPH2 VDD18 VSS eeg_tg_lowq
* ---- direct DAC caps ----
CDP CDLP CDRP {CDAC}
CDN CDLN CDRN {CDAC}
* PH1: both plates to VCM (discharge)
XDPA CDLP VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XDPB CDRP VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XDNA CDLN VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
XDNB CDRN VCM_REF PH1 NPH1 VDD18 VSS eeg_tg_lowq
* PH2: right plates to summing nodes
XDP2 CDRP INP PH2 NPH2 VDD18 VSS eeg_tg_lowq
XDN2 CDRN INN PH2 NPH2 VDD18 VSS eeg_tg_lowq
* PH2: left plates step to Vsel (BIT-gated, valid since end of PH1).
* Gates are analog products of the (RC-filtered, ~2ns) BITF and PH2 edges:
* zero-time boolean steps both inject unshaped charge noise at the DAC node
* AND cause ngspice LTE timestep collapse at tight reltol. BITF only moves
* during PH1 (CMPCK), while PH2=0, so the products are glitch-free.
BEP BEP 0 V=v(PH2)*v(BIT)/{VDDV}
BEN BEN 0 V=v(PH2)*({VDDV}-v(BIT))/{VDDV}
BNEP NBEP 0 V={VDDV}-v(BEP)
BNEN NBEN 0 V={VDDV}-v(BEN)
XDPV1 CDLP VP BEP NBEP VDD18 VSS eeg_tg_lowq
XDPV0 CDLP VN BEN NBEN VDD18 VSS eeg_tg_lowq
XDNV1 CDLN VN BEP NBEP VDD18 VSS eeg_tg_lowq
XDNV0 CDLN VP BEN NBEN VDD18 VSS eeg_tg_lowq
* ---- integration caps (cross-coupled negative feedback) ----
CIP OUTN INP {CI}
CIN OUTP INN {CI}
* summing-node DC bias
RBIASP INP VCM_REF 10G
RBIASN INN VCM_REF 10G
.ends
